US08058313B2
bis((E)-2,4,6-Trimethoxystyrylsulfonyl)methane
A solution of 2,4,6-trimethoxybenzaldehyde (2 mmol) and carboxymethane-sulfonylmethanesulfonyl-acetic acid (1 mmol) in acetic acid (10 mL) was subjected to General Procedure 1, to yield the title compound in 68% yield. m.p. 140-142° C.

reactant | 2,4,6-trimethoxybenzaldehyde | 2 mmol | COC1=C(C=O)C(=CC(=C1)OC)OC | C10H12O4
reactant | carboxymethane-sulfonylmethanesulfonyl-acetic acid | 1 mmol | C(=O)(O)CS(=O)(=O)CS(=O)(=O)CC(=O)O | C5H8O8S2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | bis((E)-2,4,6-Trimethoxystyrylsulfonyl)methane | 68% yield | COC1=C(/C=C/S(=O)(=O)CS(=O)(=O)\C=C\C2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C23H28O10S2
